US07915261B2
A THF (5 ml) solution containing 3-pyridyl 4-(4-hydroxybenzoyl)-1-piperazinecarboxylate (300 mg) and diethyl azodicarboxylate (0.62 ml, 40% Tol solution) was dropwise added to a THF (5 ml) solution containing 3-chlorobenzyl alcohol (200 mg) and triphenylphosphine (360 mg), at 0° C., followed by stirring at room temperature for 3 days. The reaction solution was diluted with chloroform, washed with an aqueous saturated sodium hydrogencarbonate solution, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: chloroform:methanol=95:5 (v/v)), and the resulting solid was recrystallized from 2-propanol to obtain 3-pyridyl 4-{4-[(3-chlorobenzoyl)oxy]benzyl}-1-piperazinecarboxylate (260 mg).

reactant | 3-pyridyl 4-(4-hydroxybenzoyl)-1-piperazinecarboxylate | 300 mg | OC1=CC=C(C(=O)N2CCN(CC2)C(=O)OC=2C=NC=CC2)C=C1 | C17H17N3O4
reactant | diethyl azodicarboxylate | 0.62 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 3-chlorobenzyl alcohol | 200 mg | ClC=1C=C(CO)C=CC1 | C7H7ClO
reactant | triphenylphosphine | 360 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-pyridyl 4-{4-[(3-chlorobenzoyl)oxy]benzyl}-1-piperazinecarboxylate | 260 mg | ClC=1C=C(C(=O)OC2=CC=C(CN3CCN(CC3)C(=O)OC=3C=NC=CC3)C=C2)C=CC1 | C24H22ClN3O4
